US05175151
A solution of 6-methyl-isatoic anhydride (4.5 gm) in DMF (30 ml) was added dropwise to a stirred suspension of 60% sodium hydride (1.0 gm) in DMF (20 ml) under nitrogen atmosphere. The reaction was then warmed to 45° C. and stirred until hydrogen evolution ceased. It was then cooled and a solution of benzyl bromide (4.4 gm) in DMF (10 ml) was added slowly. Stirring was continued for one hour at room temperature and the solution was then evaporated under reduced pressure at 45° C. The resulting solid was suspended in methylene chloride, the insoluble inorganic solid was removed by filtration and the filtrate was evaporated to give 1-benzyl-6-methyl-isatoic anhydride as a crystalline solid.

reactant | 6-methyl-isatoic anhydride | 4.5 gm | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
reactant | sodium hydride | 1.0 gm | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl bromide | 4.4 gm | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-6-methyl-isatoic anhydride | C(C1=CC=CC=C1)C12C(=O)OC(NC1C=CC=C2C)=O | C16H15NO3
